US04705784
1-Acetoxyethyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate
To a solution of sodium 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate (100 mg) in dimethylformamide (1 ml) was added 2-bromoethyl acetate (54 mg). After stirring for 2 hours at room temperature, the reaction mixture was added to a mixture of dil. HCl (10 ml) and ethyl acetate (20 ml). The resulting ethyl acetate layer was separated, washed successively with dil. HCl (10 ml), phosphate buffer (pH 7, 10 ml×2), and saturated aqueous NaCl (10 ml), dried over anhydrous magnesium sulfate, and concentrated to dryness under reduced pressure. The residue was dissolved in ethyl acetate (2 ml), and the solution was added dropwise to a petroleum ether-diethyl ether mixture (100 ml) with stirring. Resulting crystals were filtered, and dried under reduced pressure to give the title compound (50 mg).

reactant | sodium 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate | 100 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)[O-])C1=O)\C=1N=CSC1.[Na+]
reactant | 2-bromoethyl acetate | 54 mg | C(C)(=O)OCCBr | C4H7BrO2
reactant | HCl | 10 ml | Cl | ClH
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-Acetoxyethyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate | 50 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)OC(C)OC(C)=O)C1=O)\C=1N=CSC1 | C19H21N5O9S2
